US07037925B2
b) 3-(1H-1,2,4-triazol-1-yl)-1-propanol.
To a solution of Ethyl-3-(1H-1,2,4-triazol-1-yl)propanoate (2.95 g, 17.5 mmol) in ether (90 ml), LiAlH4 (0.66 g, 17.5 mmol) was added. After heating to reflux for 60 h, 10 ml of 50%-methanol-water was added. The reaction mixture was filtered and the filter washed with 100 ml of methanol and twice with 100 ml of hot water. After evaporation the title product was obtained after purification using preparative HPLC.

reactant | Ethyl-3-(1H-1,2,4-triazol-1-yl)propanoate | 17.5 mmol, 2.95 g | C(C)OC(CCN1N=CN=C1)=O | C7H11N3O2
reactant | LiAlH4 | 17.5 mmol, 0.66 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methanol water | CO.O
solvent | ether | 90 ml | CCOCC | C4H10O
product | 3-(1H-1,2,4-triazol-1-yl)-1-propanol | N1(N=CN=C1)CCCO | C5H9N3O
